US04767769
Reduced iron powder (9.87 g) and then a solution of ammonium chloride (0.373 g) in water (37 ml) were added to a solution of 4-methylcarbamoylmethyl-2-nitroaniline prepared as described in Example 8 (3.34 g) in industrial methylated spirit (186 ml). The mixture was heated under reflux for one hour and was then filtered through diatomaceous earth (sold under the trade name CELITE). The solid material collected was washed with hot industrial methylated spirit. The solvent was removed by evaporation an the residue dried by azeotropic distillation with toluene. The dried residue was recrystallised from industrial methylated spirit to give 4-methylcarbamoylmethyl-o-phenylenediamine (m.p. 140°-142° C.).

reactant | ammonium chloride | 0.373 g | [Cl-].[NH4+]
reactant | 4-methylcarbamoylmethyl-2-nitroaniline | CNC(=O)CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C9H11N3O3
solvent | water | 37 ml | O | H2O
product | 4-methylcarbamoylmethyl-o-phenylenediamine | CNC(=O)CC1=CC(=C(C=C1)N)N | C9H13N3O
